US04267359
2-Isopropyl-4-(4-fluorophenyl)-3-butenoic acid (1.12 mmol) is reacted via the acid chloride with α-cyano-m-phenoxybenzyl alcohol (1.86 mmol) to yield α-cyano-m-phenoxybenzyl 2-isopropyl-4-(4-fluorophenyl)-3-butenoate, MS m/e 429 (M+).

reactant | 2-Isopropyl-4-(4-fluorophenyl)-3-butenoic acid | 1.12 mmol | C(C)(C)C(C(=O)O)C=CC1=CC=C(C=C1)F | C13H15FO2
reactant | α-cyano-m-phenoxybenzyl alcohol | 1.86 mmol | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
product | α-cyano-m-phenoxybenzyl 2-isopropyl-4-(4-fluorophenyl)-3-butenoate | C(C)(C)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C=CC1=CC=C(C=C1)F | C27H24FNO3
